US05616586
9-Bromo-5-(p-ethoxycarbonylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
To a solution of 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (340 mg, 1 mmol) and triethylamine (140 μL, 1 mmol) in DMF (5 mL) was added isobutyl chloroformate (130 μL, 0.9 mmol) at -10° C. After being stirred for 15 min, p-ethoxycarbonylaniline (200 mg, 1.2 mmol) was added. The mixture was stirred overnight at room temperature and 0.2N hydrochloric acid was added. The precipitates formed were collected by filtration, washed with water, and dried in vacuo. The crude product was rinsed with methanol-water, and dried in vacuo to give 230 mg of the title compound (46%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.07 (s, 1H), 10.35 (s, 1H), 7.92 (d, 2H, J=9 Hz), 7.70 (d, 1H, J=9 Hz), 7.24 (d, 1H, J=2 Hz), 7.17 (d, 2H, J=9 Hz), 5.16~5.28 (m, 1H), 4.28 (q, 2H, J=7.2 Hz), 3.04 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.83 (dm, 1H, J=16.8 Hz), 2.65 (d, 2H, J=7.6 Hz), 2.10 (dm, 1H, J=13.5 Hz), 1.80~1.97 (m, 1H), 1.31 (t, 3H, J=7.2 Hz).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 1 mmol, 340 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | triethylamine | 1 mmol, 140 μL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.9 mmol, 130 μL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | p-ethoxycarbonylaniline | 1.2 mmol, 200 mg | C(C)OC(=O)C1=CC=C(N)C=C1 | C9H11NO2
reactant | hydrochloric acid | 0.2N | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 9-Bromo-5-(p-ethoxycarbonylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 230 mg, 46% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=C(C=C2)C(=O)OCC)=O | C22H20BrN3O5
